US07816557B2
Step B. Racemic 4-[1-(4-Bromo-phenoxy)-5,5,5-trifluoro-pentyl]-benzoic acid
Racemic 4-[1-(4-bromo-phenoxy)-5,5,5-trifluoro-pentyl]-benzoic acid methyl ester (7.80 g, 18.1 mmol) is dissolved in the tetrahydrofuran (75 mL) and sodium hydroxide (25 mL, 5N) is added. The reaction is heated to reflux under nitrogen. The reaction is monitored by HPLC, and upon complete conversion, the reaction is neutralized with hydrochloric acid (25 mL, 5N) and diluted with diethyl ether and water. The two phases are separated, and the organic layer is washed, dried, and concentrated. The title compound (7.46 g, 16.24 mmol) is used without further purification.

reactant | Racemic 4-[1-(4-bromo-phenoxy)-5,5,5-trifluoro-pentyl]-benzoic acid methyl ester | 18.1 mmol, 7.80 g | COC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=CC=C(C=C1)Br)=O | C19H18BrF3O3
reactant | hydrochloric acid | 5N, 25 mL | Cl | ClH
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 5N, 25 mL | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | Racemic 4-[1-(4-Bromo-phenoxy)-5,5,5-trifluoro-pentyl]-benzoic acid | 16.24 mmol, 7.46 g | BrC1=CC=C(OC(CCCC(F)(F)F)C2=CC=C(C(=O)O)C=C2)C=C1 | C18H16BrF3O3
